US05514773
Under ice-cooling, to a tetrahydrofuran solution of (R)-1-t-butyldimethylsiloxy-2-methoxymethoxy-3-(2-methoxyphenyl)propane (2.2 g) was added a solution of n tetrabutylammoniumfluoride (1 mol/l, 6.46 ml) in tetrahydrofuranand stirred for 2 hours successively. After tetrahydrofuran wasevaporated in vacuo, water was added, extracted with ethyl acetate,and dried over magnesium sulfate. The solvent was evaporated invacuo, the gained crude product was purified by silica gel columnchromatography, and eluted with a mixed solvent of hexane andethyl acetate (1:1, v/v). The fractions containing the desiredproduct were combined and evaporated in vacuo to obtain (R)-2-methoxymethoxy-3-(2-methoxyphenyl)-1-propanol(1.51 g).

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | (R)-1-t-butyldimethylsiloxy-2-methoxymethoxy-3-(2-methoxyphenyl)propane | 2.2 g | O([Si](C)(C)C(C)(C)C)C[C@@H](CC1=C(C=CC=C1)OC)OCOC | C18H32O4Si
reactant | tetrabutylammoniumfluoride | 1 mol/l, 6.46 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | (R)-2-methoxymethoxy-3-(2-methoxyphenyl)-1-propanol | 1.51 g | COCO[C@@H](CO)CC1=C(C=CC=C1)OC | C12H18O4
